US08044062B2
To a solution of 6-bromo-8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (0.765 g, 2.43 mmol) in DME-H2O (10:1 11 mL) was added 1H-pyrazol-5-ylboronic acid (Frontier, 0.408 g, 3.65 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with CH2Cl2 (Pd(dpppf), 0.198 g, 0.243 mmol) and triethylamine (0.736 g, 7.29 mmol) at room temperature. Then the reaction mixture was heated to reflux and reacted for 4 h. After cooling down to room temperature, the reaction mixture was partitioned with water and ethyl acetate. After separation, the organic layer was dried with Na2SO4, and the product 8-ethyl-4-methyl-2-(methylthio)-6-(1H-pyrazol-5-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (0.567 g, 77% yield) was obtained by silica gel column chromatography. 1H NMR (400 MHz, CDCl3): δ 13.3 (bs, 1H), 8.54 (s, 1H), 7.82-7.07 (m, 2H), 4.45 (q, J=7.2 Hz, 2H), 2.71 (s, 3H), 2.60 (s, 3H), 1.26 (t, J=7.2 Hz, 3H).

reactant | 6-bromo-8-ethyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 2.43 mmol, 0.765 g | BrC1=CC2=C(N=C(N=C2C)SC)N(C1=O)CC | C11H12BrN3OS
reactant | 1H-pyrazol-5-ylboronic acid | 3.65 mmol, 0.408 g | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | CH2Cl2 | 0.243 mmol, 0.198 g | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 7.29 mmol, 0.736 g | C(C)N(CC)CC | C6H15N
solvent | DME H2O | 11 mL | COCCOC.O
product | 8-ethyl-4-methyl-2-(methylthio)-6-(1H-pyrazol-5-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.567 g, 77% yield | C(C)N1C(C(=CC2=C1N=C(N=C2C)SC)C2=CC=NN2)=O | C14H15N5OS
